Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S/p TACE
 
Major Surgical or Invasive Procedure:
TACE ___

 
History of Present Illness:
HPI: ___ with hx of HCC (bx proven, with peritoneal mets), htn,
HLD, IDDM2, CAD s/p stent x2 (>1 decade ago), RCC s/p
cryoablation, infrarenal aortic dissection presenting for
monitoring after tranarterial chemoembolization. Pt initially
presented to ___ on ___ with reports of R flank pain
and RUQ pain x1 week, and was found to have large hepatic mass.
At that time, she was also found to have an infrarenal
dissection, and was transferred to the ___ vascular surgery
service for further medical management. She was discharged on
___, and underwent biopsy of liver mass on ___, which
revealed moderately differentiated HCC.

On ___, pt underwent scheduled for HCC resection and ventral
hernia repair; she was found to have carcinomatosis, and
resection was not performed.  

On the day of admission, she underwent scheduled TACE with 
radial
approach, to large R hepatic lobe HCC. Procedure was
uncomplicated, with chemoembolization (doxorubicin and lipiodol)
to the superior portion of the lesion via branches of the R
hepatic artery, and 100-300 micrometer particles to the inferior
portion of the mass. 

On arrival to the floor, pt endorses nausea and ___ diffuse
abdominal pain, which she describes as fullness. She denies 
chest
pain, SOB, diarrhea, constipation, melena, hematochezia, 
dysuria,
hematuria. Last BM was the morning of presentation. 

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
PMH, per prior notes, confirmed with pt:
Infrarenal aortic dissection
HTN
HLD
DM2
CAD s/p 2 stents ___ years ago (at ___)
Renal cell carcinoma - the patient denies this is cancer, 
cryoablation to ?___ in ___
Colon polyps (adenomas and hyperplastic)

 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   Living   ___  CORONARY ARTERY                           
                      DISEASE                                   
                      CORONARY BYPASS                           
                      SURGERY                                   
                      CHOLECYSTECTOMY                           
                      DIABETES MELLITUS                         

Father   ___ ___  CORONARY ARTERY                           
                      DISEASE                                   
                      CORONARY BYPASS                           
                      SURGERY                                   
                      CHOLECYSTECTOMY                           

Sister   Living   ___  CHOLECYSTECTOMY                 
 
Physical Exam:
Admission Physical Exam:
VS: ___ 1628 Temp: 97.4 PO BP: 122/84 R Lying HR: 70 RR: 18
O2 sat: 93% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GEN: delightful elderly female, alert and interactive,
comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, dentures in place, dry mucus membranes
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, obese, diffuse mild TTP, without rebounding or
guarding, nondistended with normal active bowel sounds, dressing
in place over site of ventral hernia repair, C/D/I - pt declines
for dressing to be removed as it was just placed on arrival to
the floor
EXTREMITIES: WWP, 2+ pitting edema bilaterally, subtle asymmetry
R>L
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: Alert and interactive, cranial nerves II-XII grossly
intact, strength and sensation grossly intact
PSYCH: normal mood and affect

Discharge Exam: 
98.3 PO 120 / 63 66 18 94 Ra 
GEN: delightful elderly female, alert and interactive,
comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, dentures in place, dry mucus membranes
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: +BS, soft, obese, diffuse mild TTP, without rebounding or 
guarding, nondistended, dressing in place over site of ventral 
hernia repair, C/D/I EXTREMITIES: WWP, 2+ pitting edema 
bilaterally
SKIN: no rashes, petechia, lesions, or echymoses; warm 
topalpation
NEURO: Alert and interactive, cranial nerves II-XII grossly 
intact, strength and sensation grossly intact
PSYCH: normal mood and affect
 
Pertinent Results:
Admission Labs: 
___ 07:30AM BLOOD WBC-7.9 RBC-4.86 Hgb-11.7 Hct-38.4 
MCV-79* MCH-24.1* MCHC-30.5* RDW-15.1 RDWSD-43.2 Plt ___
___ 07:30AM BLOOD ___
___ 07:30AM BLOOD Creat-0.8
___ 07:30AM BLOOD AlkPhos-118* TotBili-0.3
___ 07:30AM BLOOD AFP-84.6*

CT ABD/Pelvis:
Final Report 
EXAMINATION:  CT abdomen without contrast 
  
INDICATION:  ___ year old woman with HCC, s/p TACE, noncontrast 
CT to be done 
on ___ per ___// ___ year old woman with HCC, s/p TACE, 
noncontrast CT to 
be done on ___ per ___. 
  
TECHNIQUE:  Multidetector CT images of the abdomen were acquired 
without 
intravenous contrast. Non-contrast scan has several limitations 
in detecting 
vascular and parenchymal organ abnormalities, including tumor 
detection. 
No oral contrast was administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Spiral Acquisition 5.6 s, 29.7 cm; CTDIvol = 23.5 mGy 
(Body) DLP = 703.2 
mGy-cm. 
   2) Spiral Acquisition 1.8 s, 9.3 cm; CTDIvol = 22.5 mGy 
(Body) DLP = 215.2 
mGy-cm. 
 Total DLP (Body) = 918 mGy-cm. 
  
COMPARISON:  MRI dated ___.  CT dated ___. 
  
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits.  
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: Post TACE of large, exophytic hepatic mass which 
is markedly 
larger than on prior now measuring 17 cm, previously 9 cm.  
There is lipiodol 
deposition predominantly involving segments V and VI, with 
lipiodol seen in 
the periphery of the large mass and to a lesser degree in 
segment ___. 
  
Gas is noted within the inferior aspect of the mass, which is 
inseparable from 
the hepatic flexure, concerning for fistulization of the mass 
with the 
adjacent large bowel (3:81). 
  
There is no biliary dilatation.  There is vicarious excretion of 
contrast 
within the gallbladder. 
  
PANCREAS: Unremarkable. 
  
SPLEEN: Unremarkable. 
  
ADRENALS:  A 2.0 x 2.3 cm left adrenal nodule contains fat and 
is consistent 
with an adenoma.  A second left adrenal nodule measures 1.1 x 
0.9 cm and is 
indeterminate, but stable.  The right adrenal gland is 
unremarkable. 
  
URINARY: The kidneys are of normal and symmetric size.  A 1.5 cm 
exophytic 
mass in the upper pole of the left kidney, and a 6 mm 
hypodensity in the upper 
pole of the left kidney were previously characterized on MR as 
angiomyolipomas.  There is excreted contrast in the bilateral 
collecting 
systems.  There is no hydronephrosis. 
  
GASTROINTESTINAL: There is a moderate hiatal hernia.  There is 
no bowel 
obstruction.  There is no ascites. 
  
LYMPH NODES: There is no evidence of retroperitoneal or 
mesenteric 
lymphadenopathy. 
  
BONES: There is no evidence of worrisome osseous lesions. 
  
SOFT TISSUES: There is a high-density fluid collection in the 
anterior 
abdominal wall, at the site of ventral hernia repair, likely 
representing a 
hematoma. 
  
IMPRESSION:  
  
Status post TACE of a large, exophytic right hepatic mass which 
has markedly 
increased size, and demonstrates findings concerning for 
fistulization with 
the large bowel at the hepatic flexure. 

 
Brief Hospital Course:
___ with hx of HCC (bx proven, with peritoneal mets), htn, HLD, 
IDDM2, CAD s/p stent x2 (>1 decade ago), RCC s/p cryoablation, 
infrarenal aortic dissection presenting for
monitoring after tranarterial chemoembolization.

# HCC, with peritoneal carcinomatosis:
# S/p TACE: She tolerated the procedure well with mild 
post-procedure abdominal pain and nausea. She was placed on the 
post TACE protocol. The nausea and abdominal pain resolved 
following the procedure and she tolerated a diet. Her post 
procedure CT scan was read as concern for fistulazation between 
the mass and the hepatic flexure of the colon. This was 
discussed with interventional radiology who felt that it was an 
overcall given expected post TACE findings and there was no 
fistula. Her abdominal exam was unremarkable and she was stable 
for discharge. Metformin is on hold for 48 hours post procedure 
given the potential interaction with IV contrast. She will 
follow up in ___ clinic in 6 days.  

# IDDM2: Home regimen is glargine 44u qAM and 30u qHS, and 
Humalog SS. Last HbA1c 8.1% on ___, which is reasonable 
target in setting of active malignancy. She will resume her home 
medications in discharge with the exception of her metformin 
which will be helpd for 48 hours post procedure as above. 

# Hypertension: Continued home amlodipine

# CAD: 
- Continued home Metoprolol with hold parameters
- Continued home ___
- On simvastatin 40 mg and amlodipine - Given TACE hold home 
simvastatin but would consider change to atorvastatin given 
interaction. Please follow up with PCP. 

# ___ edema: Pt reports chronic ___ edema with furosemide prn, 
subtle R>L. Pt is unsure if this asymmetry is chronic. ___ 
obtained and was negative. Continued PRN Lasix at home. 

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
3. Metoprolol Tartrate 50 mg PO BID 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Simvastatin 40 mg PO QPM 
6. Furosemide 40 mg PO DAILY:PRN leg swelling 
7. OxyCODONE (Immediate Release) 2.5-5 mg PO Q4-6H PRN PAIN Pain 
- Moderate 
8. Aspirin 81 mg PO DAILY 
9. Glargine 44 Units Breakfast
Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
10. amLODIPine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Furosemide 40 mg PO DAILY:PRN leg swelling  
5.  Glargine 44 Units Breakfast
Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
6.  Metoprolol Tartrate 50 mg PO BID  
7.  Ondansetron 8 mg PO Q8H:PRN nausea  
8.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4-6H PRN PAIN 
Pain - Moderate  
9. HELD- MetFORMIN (Glucophage) 1000 mg PO BID  This medication 
was held. Do not restart MetFORMIN (Glucophage) until ___
10. HELD- Simvastatin 40 mg PO QPM  This medication was held. Do 
not restart Simvastatin until follow up with PCP. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
S/p TACE
Metastatic HCC

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

It was a pleasure taking care of you while you were in the 
hospital. You were admitted for a procedure to treat the mass in 
your liver. The procedure went well and you are doing well 
post-procedure. Please follow up in clinic in 1 week as listed 
below on ___. Please resume your home medications. 
 
Followup Instructions:
___